US06175042B1
By the method of Tetrahedron Lett., 37, 9057 (1996), a mixture of 9.15 g of bis(2-nitrophenyl) disulfide, 9.15 g of anhydrous potassium trifluoroacetate, and 15 ml of dry tetramethylene sulfone was heated to 230° C. with stirring in a distillation apparatus at atmospheric pressure, and volatile products were collected in a receiver which was cooled with dry ice (−78° C.). The crude product was poured into water. Phase separation gave 1.63 g (24.6% of theory) of crude 2-nitrophenyl trifluoromethyl sulfide.

reactant | bis(2-nitrophenyl) disulfide | 9.15 g | [N+](=O)([O-])C1=C(C=CC=C1)SSC1=C(C=CC=C1)[N+](=O)[O-] | C12H8N2O4S2
reactant | potassium trifluoroacetate | 9.15 g | FC(C(=O)[O-])(F)F.[K+]
reactant | tetramethylene sulfone | 15 ml | C1CCCS1(=O)=O | C4H8O2S
product | 2-nitrophenyl trifluoromethyl sulfide | 1.63 g, 24.6% | FC(F)(F)SC1=C(C=CC=C1)[N+](=O)[O-] | C7H4F3NO2S
